US04853404
1.03 g of ethyl [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetate are dissolved in 25 ml of ethanol, and 6 ml of concentrated hydrochloric acid are added thereto. The mixture is stirred at 60°-65° C. for 3.5 hours. The reaction mixture is cooled, adjusted to pH 8-9 by addition of an aqueous saturated sodium bicarbonate solution under ice-cooling, and then extracted with ethyl acetate. The extract is washed successively with an aqueous saturated sodium bicarbonate solution and water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; benzene-ethyl acetate) and crystallized with a mixture of benzene and chloroform to give 0.54 g of ethyl [2,3-dichloro-4-(5-pyrazolylcarbonyl)phenoxy]acetate.

reactant | ethyl [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetate | 1.03 g | ClC1=C(OCC(=O)OCC)C=CC(=C1Cl)C(=O)C1=CC=NN1COCC | C17H18Cl2N2O5
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl [2,3-dichloro-4-(5-pyrazolylcarbonyl)phenoxy]acetate | 0.54 g | ClC1=C(OCC(=O)OCC)C=CC(=C1Cl)C(=O)C1=CC=NN1 | C14H12Cl2N2O4
